US06727264B1
N-(3-{1-[(3S)-3-({[5-(DIMETHYLAMINO)-1-NAPHTHYL]SULFONYL}AMINO)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 and Scheme AC using 5-(dimethylamino)-1-naphthalenesulfonyl chloride and N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 613.3 (M+H)+.

reactant | 5-(dimethylamino)-1-naphthalenesulfonyl chloride | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
product | N-(3-{1-[(3S)-3-({[5-(DIMETHYLAMINO)-1-NAPHTHYL]SULFONYL}AMINO)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1)C | C36H44N4O3S
